US06455548B2
1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-(methylsulfonylamino)propyloxymethyl) piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine
A solution of 0.030 g (0.06 mmol) of 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-aminopropyloxymethyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine, 0.02 mL (0.24 mmol) of methanesulfonyl chloride, and 0.03 mL (0.15 mmol) of diisopropylethyl amine in 0.5 mL of CH2Cl2 was stirred at rt for 18 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, CH2Cl2:methanol, 95:5) to give the title compound. Mass Spectrum (ESI) m/e=574 (M+1 35Cl, 35Cl), 576 (M+1 35Cl, 37Cl), and 578 (M+1 37Cl, 37Cl). [a]D=+11.0 (c=0.815, CHCl3).

reactant | 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-aminopropyloxymethyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | 0.06 mmol, 0.030 g | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)COCCCN)C=CC(=C1)Cl | C25H35Cl2N3OS
reactant | methanesulfonyl chloride | 0.24 mmol, 0.02 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethyl amine | 0.15 mmol, 0.03 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-(methylsulfonylamino)propyloxymethyl) piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)COCCCNS(=O)(=O)C)C=CC(=C1)Cl | C26H37Cl2N3O3S2
